US06403610B1
A solution of 1.3 g of methyl (3R,4R)-1-[2-(3-fluorophenylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate in 20 cm3 of dioxane, to which 2 cm3 of 5N aqueous sodium hydroxide solution had been added, was heated with stirring for 20 hours at a temperature in the region of 60° C. The reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then the residue obtained was taken up in 30 cm3 of water and 5 cm3 of methanol, acidified with citric acid. The solvents were evaporated under the same conditions as above and then the residue obtained was taken up in 70 cm3 of a dichloromethane/methanol (80/20 by volume) mixture. The citric acid crystals were filtered off; the filtrate was evaporated as above and the evaporation residue was taken up in 30 cm3 of diethyl ether, filtered off, and dried in the air. 1.1 g of (3R,4R)-1-[2-(3-fluorophenylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetic acid were obtained in the form of a solid with a cream color.

reactant | methyl (3R,4R)-1-[2-(3-fluorophenylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 1.3 g | FC=1C=C(C=CC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)O)CC(=O)OC | C29H35FN2O4S
reactant | sodium hydroxide | 5N, 2 cm3 | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 30 cm3 | O | H2O
solvent | methanol | 5 cm3 | CO | CH4O
solvent | dichloromethane methanol | 70 cm3 | ClCCl.CO
product | (3R,4R)-1-[2-(3-fluorophenylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetic acid | 1.1 g | FC=1C=C(C=CC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)O)CC(=O)O | C28H33FN2O4S
